US09216972B2
A solution of (1-(4-fluorophenyl)cyclohexyl)methanol (Intermediate I-10A, 108.5 mg, 0.52 mmol) in toluene 91 mL) was cooled to 0° C. A 5N aq. sodium hydroxide solution (500 μL) was added followed by tetra-n-butyl ammonium hydrogen sulfate (44 mg, 0.13 mmol) and stirring was continued for 30 min at 0° C. Tert-butyl bromoacetate (152 mg, 0.78 mmol) was added, the ice bath was removed, and stirring was continued for 2 hrs. The reaction mixture was diluted with ethyl acetate and water. The organic extract was separated, washed with water and brine, dried over sodium sulfate and concentrated in vacuo to obtain a colorless oil, which was purified by flash chromatography on silica gel (Teledyne-Isco REDISEP® 12 g silica gel column). Elution with hexanes (50 mL), followed by 1% and 3% EtOAc in hexanes (100 mL each) afforded tert-butyl 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetate (100 mg, 60% yield) as a viscous oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.28-7.46 (2H, m), 6.92-7.09 (2H, m), 3.78 (2H, s), 3.39 (2H, s), 2.09 (2H, d, J=15.31 Hz), 1.67-1.86 (2H, m), 1.47-1.59 (4H, m), 1.44 (9H, s), 1.31-1.38 (2H, m).

reactant | (1-(4-fluorophenyl)cyclohexyl)methanol | 0.52 mmol, 108.5 mg | FC1=CC=C(C=C1)C1(CCCCC1)CO | C13H17FO
reactant | sodium hydroxide | 5N, 500 μL | [OH-].[Na+]
reactant | Tert-butyl bromoacetate | 0.78 mmol, 152 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | toluene | 91 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butyl ammonium hydrogen sulfate | 0.13 mmol, 44 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetate | 100 mg, 60% yield | FC1=CC=C(C=C1)C1(CCCCC1)COCC(=O)OC(C)(C)C | C19H27FO3
